US05215986
(E)-4-[[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]tetrahydro-2-methyl-2H-1,2-oxazin-3-one
A mixture of 0.70 g (2.0 mmol) of 4-[[4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]hydroxymethyl]tetrahydro-2-methyl-2H-1,2-oxazin-3-one, Example 7, and 0.040 g (0.20 mmol) of p-toluenesulfonic acid monohydrate in 15 mL of toluene was stirred at reflux for 18 hours. The cooled reaction mixture was evaporated, and the residue was purified by flash chromatography (silica gel, 15% ethyl acetate in hexane elution) to yield 0.20 g (31%) of the title compound, mp 180°-181° C.; 1H NMR (deuteriochloroform) δ 1.46 (s, 18H), 3.36 (s, 3H), 3.46 (m, 2H), 4.21 (m, 2H), 5.25 (s, 1), 7.73 (s, 1H); MS m/e 334 (M+ +1).

reactant | 4-[[4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]hydroxymethyl]tetrahydro-2-methyl-2H-1,2-oxazin-3-one | 2.0 mmol, 0.70 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(C1C(N(OCC1)C)=O)O | C18H29N3O4
reactant | p-toluenesulfonic acid monohydrate | 0.20 mmol, 0.040 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-4-[[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]tetrahydro-2-methyl-2H-1,2-oxazin-3-one | 0.20 g, 31% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)\C=C/1\C(N(OCC1)C)=O | C18H27N3O3
